US08207177B2
Step c: (1R,2R)-2-methoxyindan-1-amine
To a mixture of 2-[(1R,2R)-2-methoxy-2,3-dihydro-1H-inden-1-yl]-1H-isoindole-1,3(2H)-dione (4.13 g, 0.00141 mol) in ethanol (3.38 mL) under an atmosphere of argon was added hydrazine (0.0442 mL, 0.0580 mol). The reaction mixture was allowed to stir at rt overnight. White solid byproduct crashed out of solution. TLC showed no starting material. The reaction mixture was concentrated, and the residue was suspended in DCM and filtered. The filtrate was concentrated in vacuo. 1H NMR showed that the reaction had not gone to completion. The yellow oil was therefore stirred at reflux for 3 h. LCMS confirmed reaction was complete. The reaction mixture was cooled to rt, concentrated in vacuo, triturated with DCM, filtered, and the filtrate was concentrated in vacuo to give product as a yellow oil (0.154 g, 64%). LC/MS: Rt=0.68 min, ES+ 164 (AA standard).

reactant | 2-[(1R,2R)-2-methoxy-2,3-dihydro-1H-inden-1-yl]-1H-isoindole-1,3(2H)-dione | 0.00141 mol, 4.13 g | CO[C@H]1[C@@H](C2=CC=CC=C2C1)N1C(C2=CC=CC=C2C1=O)=O | C18H15NO3
reactant | hydrazine | 0.0580 mol, 0.0442 mL | NN | H4N2
solvent | ethanol | 3.38 mL | C(C)O | C2H6O
product | (1R,2R)-2-methoxyindan-1-amine | 0.154 g, 64% | CO[C@H]1[C@@H](C2=CC=CC=C2C1)N | C10H13NO
